US04663344
A solution of O-2-carbomethoxy-3-hydroxyphenyl dimethylthiocarbamate (1.0 g, 3.9 mmol) in N,N-dimethylformamide (10 ml) was added dropwise with stirring to a suspension of sodium hydride (0.19 g, 3.9 mmol) in N,N-dimethylformamide (15 ml) cooled to 0° C. in an ice bath. The reaction mixture was stirred for 1 hour at room temperature. Iodomethane (0.26 ml, 4.3 mmol) was added, and stirring was continued for an additional 3 hours, at which time the mixture was poured into water. Extraction with diethyl ether followed by washing of the extracts with water (3×), saturated aqueous sodium chloride solution, drying (sodium sulfate), and evaporation gave a syrup that was triturated with methanol to afford O-2-carbomethoxy-3-methoxyphenyl dimethylthiocarbamate as a white crystalline solid; yield 0.80 g (76%). NMR (CDCl3, 60 MHz: δ3.30 (d, NME2) p.p.m.

reactant | O-2-carbomethoxy-3-hydroxyphenyl dimethylthiocarbamate | 3.9 mmol, 1.0 g | CN(C(OC1=C(C(=CC=C1)O)C(=O)OC)=S)C | C11H13NO4S
reactant | sodium hydride | 3.9 mmol, 0.19 g | [H-].[Na+]
reactant | Iodomethane | 4.3 mmol, 0.26 ml | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | O-2-carbomethoxy-3-methoxyphenyl dimethylthiocarbamate | CN(C(OC1=C(C(=CC=C1)OC)C(=O)OC)=S)C | C12H15NO4S
